US09290451B2
a) 5-Methyl-2-pyridinecarbonitrile
A solution of 2-fluoro-5-methylpyridine (CAN: 2369-19-9, 10 g, 90 mmol) and sodium cyanide (8.8 g, 180 mmol) in DMSO (15 mL) was heated to 150° C. for 48 h. Then water was added, the resulting mixture was extracted with ethyl acetate (3×50 mL) and the combined extracts were washed with sodium hypochlorite solution and brine, dried over anhydrous sodium sulfate and evaporated. The residue was purified by column chromatography (silica gel, 40 g, 10% ethyl acetate in petroleum ether) to yield the title compound (3.2 g, 27 mmol, 30.1%) as yellow solid; MS (EI): m/e=119.1 [M+H]+.

reactant | 2-fluoro-5-methylpyridine | 90 mmol, 10 g | FC1=NC=C(C=C1)C | C6H6FN
reactant | sodium cyanide | 180 mmol, 8.8 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 5-Methyl-2-pyridinecarbonitrile | 27 mmol, 3.2 g, 30.1% | CC=1C=CC(=NC1)C#N | C7H6N2
